US07282501B2
Step D: 2-[4-Benzyloxy-2-(tert-butoxycarbonylamino-methyl)-phenoxy]-2-methyl-propionic acid ethyl ester
2-(4-Benzyloxy-2-carbamoylmethyl-phenoxy)-2-methyl-propionic acid ethyl-ester (430 mg, 1.16 mmol) was dissolved in CH3CN (4.5 mL) and water (4.5 mL), and [bis(trifluoroacetoxy)iodo]benzene (745 mg, 1.73 mmol) was added. After 10 min, pyridine (0.19 mL, 2.3 mmol) was added, and the solution was stirred for 17 h. Triethylamine (0.60 mL, 4.3 mmol) and di-tert-butyl dicarbonate (506 mg, 2.32 mmol) were added. The mixture was stirred for 1 h and was concentrated. The residue was partitioned between ether (50 mL) and brine (15 mL). The organic layer was washed with ice-cold 1N HCl, saturated NaHCO3 solution, and brine (15 mL each); dried (NaSO4); and concentrated. The residue was purified by silica gel column chromatography (hexanes/EtOAc 4/1 to 3/2) to a yellow oil (345 g, 67%).

reactant | 2-(4-Benzyloxy-2-carbamoylmethyl-phenoxy)-2-methyl-propionic acid ethyl-ester | 1.16 mmol, 430 mg | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)CC(N)=O)=O | C21H25NO5
reactant | [bis(trifluoroacetoxy)iodo]benzene | 1.73 mmol, 745 mg | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | pyridine | 2.3 mmol, 0.19 mL | N1=CC=CC=C1 | C5H5N
reactant | Triethylamine | 4.3 mmol, 0.60 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.32 mmol, 506 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 4.5 mL | CC#N | C2H3N
solvent | water | 4.5 mL | O | H2O
product | 2-[4-Benzyloxy-2-(tert-butoxycarbonylamino-methyl)-phenoxy]-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)CNC(=O)OC(C)(C)C)=O | C25H33NO6
